US04535184
Bromine, 7.99 g (0.5 mol), was added dropwise at 0° to a solution of 0.05 mol of tris(dimethylamino)sulfonium 1,1,1,3,3,4,4,5,5,5-decafluoro-2-(trifluoromethyl)-2-pentanide, prepared as in Example D (except for the amounts), in 40 mL of benzonitrile. The reaction mixture was warmed to 25°, and the volatile portion was distilled out under reduced pressure, and then redistilled at atmospheric pressure to give 12.8 g (75%) of 2-bromo-1,1,1,3,3,4,4,5,5,5-decafluoro-2-(trifluoromethy)pentane as a colorless liquid: b.p. 96.5°-97.2°; 19F NMR (CDCl3) δ -65.2 ppm (m, 6F), -81.1 ppm (t, 3F), -105.9 ppm (2F) and -122.6 ppm (2F). Anal. Calcd. for C6BrF13 : C, 18.06; F, 61.91. Found: C, 17.90; F, 61.55.

reactant | Bromine | BrBr | Br2
reactant | tris(dimethylamino)sulfonium 1,1,1,3,3,4,4,5,5,5-decafluoro-2-(trifluoromethyl)-2-pentanide | 0.05 mol | FC([C-](C(C(C(F)(F)F)(F)F)(F)F)C(F)(F)F)(F)F.CN(C)[S+](N(C)C)N(C)C
solvent | benzonitrile | 40 mL | C(C1=CC=CC=C1)#N | C7H5N
product | 2-bromo-1,1,1,3,3,4,4,5,5,5-decafluoro-2-(trifluoromethy)pentane | 12.8 g, 75% | BrC(C(F)(F)F)(C(C(C(F)(F)F)(F)F)(F)F)C(F)(F)F | C6BrF13
